US08803420B2
A reaction vessel was charged with 24.0 g of 9-[2-(2-methoxyvinyl)phenyl]phenanthrene and 100 mL of dichloromethane. 6 drops of methanesulfonic acid were added to the mixture using a Pasteur pipette at room temperature with stirring. The mixture was stirred at room temperature for 8 hours. After completion of the reaction, 100 mL of a 10% potassium carbonate aqueous solution was added to the mixture. After removing the aqueous phase, the organic phase was washed with water and a saturated sodium chloride solution, and dried over magnesium sulfate. After removing magnesium sulfate by filtration, the organic phase was concentrated. The residue was purified by silica gel column chromatography to obtain 5.21 g of the target benzo[g]chrysene (yield: 25%).

reactant | 9-[2-(2-methoxyvinyl)phenyl]phenanthrene | 24.0 g | COC=CC1=C(C=CC=C1)C=1C2=CC=CC=C2C=2C=CC=CC2C1 | C23H18O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | methanesulfonic acid | 6 drops | CS(=O)(=O)O | CH4O3S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | benzo[g]chrysene | yield: 25% | C1=CC=CC2=C1C1=C3C=CC=CC3=CC=C1C1=CC=CC=C21 | C22H14
